US07402684B2
(R)-2-[4-(2-Thiophen-benzyl)-phenoxymethyl]-pyrrolidine 1-carboxylic acid tert-butyl ester:
To a 20 mL pressure resistant vial which contained a suspension of (R)-2-[4-(4-iodo-benzyl)phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (100 mg, 0.2 mmol), thiophene-2-boronic acid (52 mg, 0.4 mmol), palladium(II) acetate (10 mg, 0.05 mmol) and triphenyl phosphine (30 mg, 0.1 mmol) in DME (5 mL) was added potassium carbonate (100 mg, 0.7 mmol), ethanol (0.05 mL) and water (0.05 mL) at rt. The tube was sealed and the mixture was allowed to warm to rt and stir at rt for 30 min and then was heated to 98° C. and stirred at 98° C. for 16 h. After cooling to if, the mixture was poured onto 200 mL ice-water solution and then extracted with EtOAc (3×30 mL). The combined organic layers were washed with water (2×30 mL) and brine (20 mL) and dried over anhy. Na2SO4. The solvent was removed in vacuo to obtain the crude product, which was purified by silica gel flash chromatography to afford desired product (68 mg, 75% yield); LCMS; 100%, APCI+, Calcd: 449.6. Found m/z: 449.6, M). 1H NMR (400 MHz, CDCl3); δ 1.46 (s, 9H), 1.79-2.08 (m, 4H), 3.27-3.44 (m, 2H), 3.70-3.95 (m, 1H), 3.92 (s, 2H), 4.03-4.18 (m, 2H), 6.91 (d, J=8.0 Hz, 2H), 7.09-7.11 (m, 1H), 7.16 (d, J=8.8 Hz, 2H), 7.26 (d, J=8.4 Hz, 2H), 7.39-7.42 (m, 2H), 7.58 (d, J=8.4 Hz, 2H):

reactant | (R)-2-[4-(4-iodo-benzyl)phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.2 mmol, 100 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)I | C23H28INO3
reactant | thiophene-2-boronic acid | 0.4 mmol, 52 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | triphenyl phosphine | 0.1 mmol, 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 0.7 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | palladium(II) acetate | 0.05 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.05 mL | O | H2O
solvent | ethanol | 0.05 mL | C(C)O | C2H6O
product | (R)-2-[4-(2-Thiophen-benzyl)-phenoxymethyl]-pyrrolidine 1-carboxylic acid tert-butyl ester | 68 mg, 75% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1C=1SC=CC1 | C27H31NO3S
